US04588722
To a stirred solution of 3 parts of 3-(2-hydroxyethyl)-2,4(1H,3H)-pyrimidinedione and 45 parts of trichloromethane were added dropwise 8 parts of thionyl chloride. Upon completion, stirring was continued for 1 hour at reflux temperature. The reaction mixture was cooled. The precipitated product was filtered off and crystallized from 2-propanol, yielding 3.1 parts of 3-(2-chloroethyl)-2,4(1H,3H)-pyrimidinedione; mp. 170° C. (60).

reactant | 3-(2-hydroxyethyl)-2,4(1H,3H)-pyrimidinedione | OCCN1C(NC=CC1=O)=O | C6H8N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 3-(2-chloroethyl)-2,4(1H,3H)-pyrimidinedione | ClCCN1C(NC=CC1=O)=O | C6H7ClN2O2
